US20010003121A1
a) 2,2′-Dithiobis[N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide]
Prepared according to the method of Example 14 from 1-adamantanemethylamine (0.23 g), 4-dimethylaminopyridine (0.006 g) and 2,2′dithiosalicylic acid (0.2 g) to give the sub-title compound as an off-white solid (0.12 g).

reactant | 1-adamantanemethylamine | 0.23 g | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
reactant | 2,2′dithiosalicylic acid | 0.2 g | C1=CC=C(C(=C1)C(=O)O)SSC2=CC=CC=C2C(=O)O | C14H10O4S2
catalyst | 4-dimethylaminopyridine | 0.006 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2,2′-Dithiobis[N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide] | 0.12 g | C12(CC3CC(CC(C1)C3)C2)CNC(C2=C(C=CC=C2)SSC2=C(C(=O)NCC31CC4CC(CC(C3)C4)C1)C=CC=C2)=O | C36H44N2O2S2
